US04272536
Preparation of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-3-piperidinopropionamide hydrochloride
To a solution of 1.00 g (3.91 millimoles) of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-3-chloropropionamide and 0.33 g (3.91 millimoles) of piperidine in 20 ml of diethyl ether was added 6 ml of an aqueous solution containing 0.27 g (3.91 millimoles) of sodium hydrogencarbonate and 0.065 g (0.39 millimole) of potassium iodide, and the mixture was refluxed under stirring for 6 hours. The post treatment was carried out in the same manner as described in Example 1 to obtain 1.00 g (the yield being 75%) of the intended compound having a melting point of 207° to 212° C.

reactant | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-3-chloropropionamide | 3.91 millimoles, 1.00 g | C12(C3CCC(C(CCC1)C2)C3)NC(CCCl)=O | C14H22ClNO
reactant | piperidine | 3.91 millimoles, 0.33 g | N1CCCCC1 | C5H11N
reactant | sodium hydrogencarbonate | 3.91 millimoles, 0.27 g | C(O)([O-])=O.[Na+]
reactant | potassium iodide | 0.39 millimole, 0.065 g | [I-].[K+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-3-piperidinopropionamide hydrochloride | Cl.C12(C3CCC(C(CCC1)C2)C3)NC(CCN3CCCCC3)=O | InChI=1S/C19H32N2O.ClH/c22-18(8-12-21-10-2-1-3-11-21)20-19-9-4-5-16(14-19)15-6-7-17(19)13-15;/h15-17H,1-14H2,(H,20,22);1H
